Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.41631922809
[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8]=[C:9]([H:10])[H:11].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-3.96667332493
[O:1]=[C:2]=[C:3]([C:4][H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([C:4][H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],-1.1847718619299998
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],-1.00084655829
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],2.16268374355
[H:10].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-2.00240784353
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6][O:7][H:8]>>[C:4]#[C:5][C:6][O:7][H:8].[O:1]=[C:2][H:3],3.84421229699
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9]>>[H:9].[O:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][H:8],4.33740426559
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],3.41148787457
[C:5]([O:6][H:7])([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12],1.30050048107
[C:1]#[C:2][O:3][C:4].[C:5](=[O:6])[H:7]>>[C:1]#[C:2][O:3][C:4][C:5](=[O:6])[H:7],-1.57360411364
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],2.31090297065
[H:1][O:2][C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.11738994682
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:8][C:9]([H:10])[H:11].[H:7]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.29061734445
[C:6]([H:7])([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.28944590175
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10]>>[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3][H:4],5.614724417560001
[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.57723827072
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:14]([H:15])([H:16])[H:17],5.06675430663
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6],1.66960509276
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.55815342053
[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13],4.59232207549
[H:1]/[C:2](=[C:3](/[H:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:5]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.9400619918
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.77415463431
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2],5.1227914575
[H:1][O:2][C:3]([O:4][H:5])=[C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.83854175695
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[O:5][H:6],4.2373228371900025
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]=[C:4]([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2],10.0049635131
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.85972329282
